US07482336B2
Step A: Methyl 8-oxo-1,4-dioxaspiro[4.5]decane-7-carboxylate
To a stirred solution of 1,4-cyclohexanedione monoethylene ketal (1.00 g, 6.4 mmol) in dimethyl carbonate (6 mL) at room temperature was added sodium hydride (0.31 g, 7.7 mmol). The mixture was heated at 80° C. for 20 min and then diluted with dry toluene (20 mL). The mixture was stirred for an additional 3 h at 80° C., cooled to room temperature, quenched with water, and then extracted with dichloromethane. The organic phase was dried over anhydrous sodium sulfate and evaporated to yield the crude product which was purified by Biotage® chromatography (silica gel, ethyl acetate in hexanes gradient 30-42%) to yield the title compound.

reactant | 1,4-cyclohexanedione monoethylene ketal | 6.4 mmol, 1.00 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | sodium hydride | 7.7 mmol, 0.31 g | [H-].[Na+]
solvent | dimethyl carbonate | 6 mL | C(OC)(OC)=O | C3H6O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 8-oxo-1,4-dioxaspiro[4.5]decane-7-carboxylate | O=C1C(CC2(OCCO2)CC1)C(=O)OC | C10H14O5
